US05889012
4-(cis-4Isopropenylcyclohexyloxy)quinazoline
0.42 g (17.5 mmol) of NaH (80% pure) was added in portions to a solution of 1.8 g (12.8 mmol) of cis-4isopropenylcyclohexanol in 20 ml of absolute THF. The mixture was then heated at reflux for 3 hours, and a solution of 1.9 g (11.6 mmol) of 4-chloroquinazoline in 10 ml of THF was added dropwise. The reaction mixture was subsequently heated at reflux for 5 hours. After cooling to room temperature, 10 ml of isopropanol were added, the mixture was subsequently stirred for 15 minutes, and the reaction solution was poured into saturated ammonium chloride solution. Extraction was carried out with ether, the combined organic phases were dried over MgSO4 and the solvent was concentrated by evaporation in vacuo. The residue (2.7 g) was purified by flash chromatography over silica gel with petroleum ether/ethyl acetate 3:1. After concentration, 1.8 g (57.6% of theory) were obtained of a colorless oil.

reactant | NaH | 17.5 mmol, 0.42 g | [H-].[Na+]
reactant | cis-4isopropenylcyclohexanol | 12.8 mmol, 1.8 g | C(=C)(C)[C@H]1CC[C@H](CC1)O | C9H16O
reactant | 4-chloroquinazoline | 11.6 mmol, 1.9 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(cis-4Isopropenylcyclohexyloxy)quinazoline | C(=C)(C)[C@H]1CC[C@H](CC1)OC1=NC=NC2=CC=CC=C12 | C17H20N2O
